US07674912B2
4-Amino-3-chloro-benzoic acid methyl ester (21.6 mmol) was saponified in EtOH (25 ml) and NaOH (1M, 25 ml) at reflux for 2 h. The organic solvent was evaporated and pH adjusted to 4. The product was removed by filtration, washed with water and dried in vacuo to give 4-amino-3-chloro-benzoic acid.

reactant | 4-Amino-3-chloro-benzoic acid methyl ester | 21.6 mmol | COC(C1=CC(=C(C=C1)N)Cl)=O | C8H8ClNO2
reactant | NaOH | 1M, 25 ml | [OH-].[Na+]
solvent | EtOH | 25 ml | CCO | C2H6O
product | 4-amino-3-chloro-benzoic acid | Yield: 92% | NC1=C(C=C(C(=O)O)C=C1)Cl | C7H6ClNO2
